US06207665B1
To a solution of oxalyl chloride (0.62 g, 5 mmol) in CH2Cl2 (20 mL) at −50° C. was added DMSO (0.85 g, 11 mmol, in solution of 5 mL of CH2Cl2) over 2 minutes. 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxyethyl)piperazine (1.85 g, 4.5 mmol, in solution of 5 mL of CH2Cl2) was added. The resulting mixture was stirred at −50° C. for 15 minutes, then triethylamine (2.3 g, 22 mmol) was added. After 5 minutes at −50° C., the mixture was gradually warmed to ambient temperature. At that time the mixture was diluted with CH2Cl2 and washed with water, then brine. The organic layer was then dried over MgSO4 and concentrated in vacuo to afford 1.7 g of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-((formyl)methyl)piperazine as a yellow oil; NMR (CDCl3) 9.8 (d, 1) 7.3 (m, 4), 7.0 (m, 4), 4.6 (m, 3), 3.8-3.2 (m, 7), 2.7-2.2 (m, 4) ppm.

reactant | oxalyl chloride | 5 mmol, 0.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 11 mmol, 5 mL, 0.85 g | CS(=O)C | C2H6OS
reactant | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxyethyl)piperazine | 4.5 mmol, 5 mL, 1.85 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CCO)C=C1 | C21H24ClFN2O3
reactant | triethylamine | 22 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-((formyl)methyl)piperazine | 1.7 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CC=O)C=C1 | C21H22ClFN2O3
